US08258162B2
(5-Benzyloxy-2-bromo-4-methoxyphenyl)p-tolylmethanol
To a mixture of 5-benzyloxy-2-bromo-4-methoxy-benzaldehyde (1 g) and tetrahydrofuran (10 mL) was added p-tolylmagnesium bromide (1 mol/L tetrahydrofuran solution, 3.7 mL) under ice-salt bath cooling. After stirring at same temperature for 10 minutes, to the mixture were added an aqueous solution of ammonium chloride, ethyl acetate and 2 mol/L hydrochloric acid. The separated organic layer was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: 0%-50% ethyl acetate/hexane, gradient elution) to give the title compound (1.27 g).

reactant | 5-benzyloxy-2-bromo-4-methoxy-benzaldehyde | 1 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C=O)C1)Br)OC | C15H13BrO3
reactant | p-tolylmagnesium bromide | 1 mol/L, 3.7 mL | C1(=CC=C(C=C1)[Mg]Br)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (5-Benzyloxy-2-bromo-4-methoxyphenyl)p-tolylmethanol | 1.27 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)C(O)C1=CC=C(C=C1)C)Br)OC | C22H21BrO3
